US08383821B2
tert-Butyl 4-(((4′,5-dicyanobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate.
tert-Butyl 4-(((5-bromo-4′-cyanobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (52 mg, 0.09 mmol), tetrakis(triphenylphosphine) palladium(0) (14 mg, 0.01 mmol), and zinc cyanide (12 mg, 0.1 mmol) were combined in dimethylformamide (1.5 mL). The reaction mixture was degassed repeatedly using the freeze-pump-thaw method. After warming to room temperature, the reaction was heated at 90° C. for 1 h, cooled to room temperature, and concentrated. Flash chromatography on silica gel (30% ethyl acetate/hexanes) gave 15 mg (33%). 1H-NMR (CDCl3, 300 MHz) δ 7.78-7.75 (m, 3H), 7.52-7.55 (m, 2H), 7.31-7.33 (m, 4H), 7.20-7.23 (m, 2H), 4.41 (s, 2H), 3.70-3.77 (m, 2H), 3.43 (s, 2H), 2.97-3.06 (m, 2H), 2.17-2.21 (m, 2H), 1.78-1.88 (m, 2H), 1.40 (s, 9H). Mass spec.: 508.28 (MH)+.

reactant | tert-Butyl 4-(((5-bromo-4′-cyanobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.09 mmol, 52 mg | BrC=1C=C(C=C(C1)C1=CC=C(C=C1)C#N)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C31H33BrN2O3
reactant | dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.01 mmol, 14 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | zinc cyanide | 0.1 mmol, 12 mg | [C-]#N.[Zn+2].[C-]#N
product | tert-Butyl 4-(((4′,5-dicyanobiphenyl-3-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | C(#N)C1=CC=C(C=C1)C1=CC(=CC(=C1)C#N)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C32H33N3O3
